US04223142
(c) 5-Cyano-6-methylidene-hydrazino-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester
2.8 g of 5-cyano-6-formyl-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester (0.01 mol) are dissolved in 10 ml of methanol and 1 g of hydrazine hydrate is added with stirring. After standing over night the title compound precipitates. Yield 2.1 g (73%); m.p. 120°-121° C. (methanol).

reactant | 5-cyano-6-formyl-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester | 0.01 mol, 2.8 g | C(#N)C=1C=C(C(=NC1C=O)NC(CC)C)C(=O)OCC | C14H17N3O3
reactant | hydrazine hydrate | 1 g | O.NN
solvent | methanol | 10 ml | CO | CH4O
product | 5-Cyano-6-methylidene-hydrazino-2-[(1-methylpropyl)amino]-3-pyridine-carboxylic acid, ethyl ester | C(#N)C1=C(C(=C(NC1=C)NC(CC)C)C(=O)OCC)NN | C14H21N5O2
